US05916916
Preparation of 2-(4-methoxyphenyl)-4-(3-methoxyphenyl)butyric acid
4-Methoxyphenylacetic acid (50.68 g, 305 mmol) was dissolved in 1.4 L of THF and cooled to -70° C. under a nitrogen atmosphere. 400 mL of 1.6M (640.5 mmol) of n-BuLi in hexane was slowly added. 72.1 g (335.5 mmol) of 2-(3-methoxyphenyl)ethylbromide in 400 mL of THF was slowly added and the reaction allowed to proceed for 1.5 hours. The reaction was allowed to warm to ambient temperature. The reaction was quenched with 500 mL of 0.5N NaOH and heated to 50° C. for one hour and cooled to ambient temperature. The reaction mixture was extracted three times with ether, the aqueous layer was acidified with 150 mL of 5N HCl and extracted twice with CHCl3. The CHCl3 extract was washed twice with brine, dried with Na2SO4, and evaporated to a yellow solid. This yielded 78.2 g of the title compound.

reactant | 4-Methoxyphenylacetic acid | 305 mmol, 50.68 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | n-BuLi | 640.5 mmol, 1.6M | [Li]CCCC
reactant | 2-(3-methoxyphenyl)ethylbromide | 335.5 mmol, 72.1 g | COC=1C=C(C=CC1)CCBr | C9H11BrO
solvent | THF | 1.4 L | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 2-(4-methoxyphenyl)-4-(3-methoxyphenyl)butyric acid | COC1=CC=C(C=C1)C(C(=O)O)CCC1=CC(=CC=C1)OC | C18H20O4
